US06479524B1
a. 5-bromo-1,3-dihydro-isobenzofuran-1-one
A solution of 0.43 g (2.0 mmol) of 4-bromo-2-methyl-benzoic acid, 0.34 g (1.9 mmol) of N-bromosuccinimide and 20 mg of azaisobutyronitrile in 7 ml of methyl propionate is heated to boiling for 1 hour under a nitrogen atmosphere and irradiated with a mercury vapour lamp. The reaction mixture is concentrated, taken up in methylene chloride, washed with H2O, dried with Na2SO4 and purified by flash chromatography (silica gel; ethyl acetate/petroleum ether=5:95 to 15:85).

reactant | 4-bromo-2-methyl-benzoic acid | 2.0 mmol, 0.43 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | N-bromosuccinimide | 1.9 mmol, 0.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azaisobutyronitrile | 20 mg | C(N(C)C)#N | C3H6N2
solvent | methyl propionate | 7 ml | C(CC)(=O)OC | C4H8O2
catalyst | mercury | [Hg] | Hg
product | 5-bromo-1,3-dihydro-isobenzofuran-1-one | BrC=1C=C2COC(C2=CC1)=O | C8H5BrO2
